US05521184
1.38 g (5.68 mmol) of 3-nitrophenyl-guanidine nitrate and 0.25 g (6.24 mmol) of sodium hydroxide are added to a solution of 1 g (5.68 mmol) of 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one [U.S. Pat. No. 4,281,000] in 8 ml of isopropanol. The yellow suspension is heated at reflux for 20 hours and then cooled to 0°. After washing with 30 ml of isopropanol the filtration residue is made into a slurry in succession in 15 ml of ethanol and then in 15 ml of water and filtered each time. Drying under HV yields N-(3-nitrophenyl)-4-(4-pyridyl)-2-pyrimidine-amine; m.p. 282°-284°.

reactant | 3-nitrophenyl-guanidine nitrate | 5.68 mmol, 1.38 g | [N+](=O)(O)[O-].[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
reactant | sodium hydroxide | 6.24 mmol, 0.25 g | [OH-].[Na+]
reactant | 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one | 5.68 mmol, 1 g | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
product | N-(3-nitrophenyl)-4-(4-pyridyl)-2-pyrimidine-amine | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=NC=C1 | C15H11N5O2
